US08957205B2
2-(2-Benzothienyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
4.1 g (21 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added to a solution of 5 g (16 mmol) of 1-[(2-benzothienylcarbonyl)amino]cyclohexanecarboxylic acid in 50 ml of methylene chloride. After the mixture was stirred at room temperature for 4 hours, the reaction solution was concentrated under reduced pressure, ethyl acetate was added thereto, and the mixture was successively washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine. The organic layer was dried with anhydrous sodium sulfate and the solvent was distilled off under reduced pressure to obtain 3.5 g (75%) of the title compound.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 21 mmol, 4.1 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-[(2-benzothienylcarbonyl)amino]cyclohexanecarboxylic acid | 16 mmol, 5 g | S1C(=CC2=C1C=CC=C2)C(=O)NC2(CCCCC2)C(=O)O | C16H17NO3S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(2-Benzothienyl)-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 3.5 g, 75% | S1C(=CC2=C1C=CC=C2)C2=NC1(C(O2)=O)CCCCC1 | C16H15NO2S
